US07319099B2
(a) 4-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester
A well stirred mixture of 0.015 mmol of bis(tri-t-butylphosphine)palladium, 0.01 mmol of cetyltrimethylammonium bromide, 2 mmol of powdered potassium hydroxide, 2 mmol of 3-(4-bromo-phenyl)-5-methyl-[1,2,4]oxadiazole and 2.1 mmol of N-BOC-piperazine in 1 ml of toluene was heated under Ar to 90° C. for 17 hours. The resulting reaction mixture was diluted with water, extracted with ethyl acetate and the product purified by column chromatography (SiO2; cyclohexane/ethyl acetate 7:3) to yield the title compound as a yellowish solid. MS (m/e): 345.3 (MH+, 100%)

reactant | potassium hydroxide | 2 mmol | [OH-].[K+]
reactant | 3-(4-bromo-phenyl)-5-methyl-[1,2,4]oxadiazole | 2 mmol | BrC1=CC=C(C=C1)C1=NOC(=N1)C | C9H7BrN2O
reactant | N-BOC-piperazine | 2.1 mmol | C(=O)(OC(C)(C)C)N1CCNCC1 | C9H18N2O2
catalyst | cetyltrimethylammonium bromide | 0.01 mmol | [Br-].C(CCCCCCCCCCCCCCC)[N+](C)(C)C
solvent | toluene | 1 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | bis(tri-t-butylphosphine)palladium | 0.015 mmol | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 4-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NOC(=N1)C | C18H24N4O3
